US04203980
Preparation of 2,4-diamino-5-(4-isopropenyl-3,5-dimethoxybenzyl)-pyrimidine hydrochloride
3.3 Ml. of 1-N hydrochloric acid were added to a solution of 0.9 g. of 2,4-diamino-5-(4-isopropenyl-3,5-dimethoxybenzyl)-pyrimidine in 100 ml. of methanol. The solution was concentrated to 25 ml. and, after cooling, the crystals were removed by filtration under suction and dried. The resulting 2,4-diamino-5-(4-isopropenyl-3,5-dimethoxybenzyl)-pyrimidine hydrochloride melts at above 300° C.

reactant | hydrochloric acid | Cl | ClH
reactant | 2,4-diamino-5-(4-isopropenyl-3,5-dimethoxybenzyl)-pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)C(=C)C)OC | C16H20N4O2
solvent | methanol | CO | CH4O
product | 2,4-diamino-5-(4-isopropenyl-3,5-dimethoxybenzyl)-pyrimidine hydrochloride | Cl.NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)C(=C)C)OC | InChI=1S/C16H20N4O2.ClH/c1-9(2)14-12(21-3)6-10(7-13(14)22-4)5-11-8-19-16(18)20-15(11)17;/h6-8H,1,5H2,2-4H3,(H4,17,18,19,20);1H
